US07456177B2
Preparation of 4,10-diaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene dihydrochloride
10-Benzyl-4,10-diaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene (900 mg, 3.6 mmol) and HCO2NH4 (4 g) were dissolved in methanol (35 mL) and treated with Pd(OH)2/C (10 wt %, 200 mg). The mixture was stirred and warmed to reflux for 2 h, cooled, filtered through Celite™ and rinsed with methanol. The filtrate was stripped, slurried in dichloromethane and filtered through a fritted-glass filter. The filtrate was concentrated and azeotroped from methanol (2×50 mL). A sample of this material was isolate and found to melt at 104–105° C. The material was dissolved in methanol and treated with 3N HCl/EtOAc. This was concentrated and azeotroped from methanol (2×50 mL). This residue was dissolved in a minimum of methanol then Et2O until cloudy and allowed to stir for 60 h. Product was collected by filtration (370 mg, 52%). (TLC 1% NH4OH/7% MeOH/dichloromethane Rf 0.18); 1H NMR (400 MHz, CDCl3) δ 8.88 (s, 1H), 8.83 (d, J=5.9 Hz, 1H), 8.16 (d, J=5.9 Hz, 1H), 3.75 (m, 2H), 3.60 (m, 2H), 3.40 (d, J=12.4 Hz, 2H), 2.57 (m, 1H), 2.34 (d, J=12.0 Hz, 1H); 13C NMR (100 MHz, CDCl3, free base) δ 151.4, 149.5, 144.5, 137.7, 119.7, 45.8, 45.2, 41.0, 38.4, 36.4; GCMS m/z 160 (M)+; Anal. Calcd. for C10H12N22. HCl: C, 51.52; H, 6.05; N, 12.02. Found C, 51.35; H, 6.05; N, 12.05.

reactant | 10-Benzyl-4,10-diaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | 3.6 mmol, 900 mg | C(C1=CC=CC=C1)N1CC2C=3C=CN=CC3C(C1)C2 | C17H18N2
reactant | HCl EtOAc | 3N | Cl.CCOC(=O)C
solvent | methanol | 35 mL | CO | CH4O
catalyst | Pd(OH)2/C | 200 mg | [OH-].[OH-].[Pd+2]
product | 4,10-diaza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene dihydrochloride | Cl.Cl.C12C=3C=NC=CC3C(CNC1)C2 | InChI=1S/C10H12N2.2ClH/c1-2-11-6-10-8-3-7(9(1)10)4-12-5-8;;/h1-2,6-8,12H,3-5H2;2*1H
